US07932272B2
2-Amino-6-methylamino-N-(5phenoxy-thiophen-2-ylmethyl)-nicotinamide
2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Example A-101 (200 mg, 0.56 mmol) was dissolved in a mixture solution of dimethylsulfoxide (1 mL) and diisopropylethylamine (0.5 mL), methylamine (2M tetrahydrofuran solution) (2 mL, 4 mmol) was added thereto, followed by heating in a sealed tube for 14 hours (oil bath temperature: 135° C.). The reaction mixture was allowed to room temperature, poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate:hexane=2:1), and the title compound (144 mg, 0.41 mmol, 73%) was obtained.

reactant | 2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)Cl | C17H14ClN3O2S
reactant | A-101 | 0.56 mmol, 200 mg | C1=CC=C(C=C1)CC(=O)NCN[C@@H](CC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O | C18H19N3O5
reactant | methylamine | 4 mmol, 2M, 2 mL | CN | CH5N
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-6-methylamino-N-(5phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.41 mmol, 144 mg, 73% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)NC | C18H18N4O2S
